### PR TITLE
[Merged by Bors] - chore: review of induction branch names

### PR DESCRIPTION
**Pull request by Parcly-Taxel**
Based on @eric-wieser's comment at https://github.com/leanprover-community/mathlib4/pull/23324#discussion_r2014688006. Induction principles to rename were found using the regex `^\s+\| @?[Hh]_`.

Most of this PR just removes `h_` from the start of induction branch names that start with it, but `MeasureTheory.SimpleFunc.induction` and `DirectSum.induction_(l)on` receive more substantial changes, and the motive variables have been renamed to `motive` as per the naming conventions.

### CODE REVIEW

File: Mathlib/Algebra/DirectSum/Basic.lean [hunk 1]
```diff
@@ -170,10 +170,10 @@ theorem of_injective (i : ι) : Function.Injective (of β i) :=
   DFinsupp.single_injective
 
 @[elab_as_elim]
-protected theorem induction_on {C : (⨁ i, β i) → Prop} (x : ⨁ i, β i) (H_zero : C 0)
-    (H_basic : ∀ (i : ι) (x : β i), C (of β i x))
-    (H_plus : ∀ x y, C x → C y → C (x + y)) : C x := by
-  apply DFinsupp.induction x H_zero
+protected theorem induction_on {C : (⨁ i, β i) → Prop} (x : ⨁ i, β i) (zero : C 0)
+    (basic : ∀ (i : ι) (x : β i), C (of β i x))
+    (plus : ∀ x y, C x → C y → C (x + y)) : C x := by
```
Comment (eric-wieser) [inline Mathlib/Algebra/DirectSum/Basic.lean:175]:
```suggestion
    (add : ∀ x y, C x → C y → C (x + y)) : C x := by
```

File: Mathlib/Algebra/DirectSum/Basic.lean [hunk 2]
```diff
@@ -170,10 +170,10 @@ theorem of_injective (i : ι) : Function.Injective (of β i) :=
   DFinsupp.single_injective
 
 @[elab_as_elim]
-protected theorem induction_on {C : (⨁ i, β i) → Prop} (x : ⨁ i, β i) (H_zero : C 0)
-    (H_basic : ∀ (i : ι) (x : β i), C (of β i x))
-    (H_plus : ∀ x y, C x → C y → C (x + y)) : C x := by
-  apply DFinsupp.induction x H_zero
+protected theorem induction_on {C : (⨁ i, β i) → Prop} (x : ⨁ i, β i) (zero : C 0)
+    (basic : ∀ (i : ι) (x : β i), C (of β i x))
```
Comment (eric-wieser) [inline Mathlib/Algebra/DirectSum/Basic.lean:174]:
```suggestion
    (of : ∀ (i : ι) (x : β i), C (of β i x))
```

File: Mathlib/Algebra/DirectSum/Basic.lean [hunk 3]
```diff
@@ -170,10 +170,10 @@ theorem of_injective (i : ι) : Function.Injective (of β i) :=
   DFinsupp.single_injective
 
 @[elab_as_elim]
-protected theorem induction_on {C : (⨁ i, β i) → Prop} (x : ⨁ i, β i) (H_zero : C 0)
-    (H_basic : ∀ (i : ι) (x : β i), C (of β i x))
-    (H_plus : ∀ x y, C x → C y → C (x + y)) : C x := by
-  apply DFinsupp.induction x H_zero
+protected theorem induction_on {C : (⨁ i, β i) → Prop} (x : ⨁ i, β i) (zero : C 0)
```
Comment (eric-wieser) [inline Mathlib/Algebra/DirectSum/Basic.lean:173]: You can declare it out of scope for this PR, but the naming guide says
```suggestion
protected theorem induction_on {motive : (⨁ i, β i) → Prop} (x : ⨁ i, β i) (zero : motive 0)
```
and since you're modifying these lines anyway...

File: Mathlib/MeasureTheory/Function/SimpleFunc.lean [hunk 4]
```diff
@@ -1140,18 +1140,18 @@ of a characteristic function, and that this multiple doesn't appear in the image
 To use in an induction proof, the syntax is `induction f using SimpleFunc.induction with`. -/
 @[elab_as_elim]
 protected theorem induction {α γ} [MeasurableSpace α] [AddZeroClass γ] {P : SimpleFunc α γ → Prop}
-    (h_ind :
+    (ind :
       ∀ (c) {s} (hs : MeasurableSet s),
```
Comment (eric-wieser) [inline Mathlib/MeasureTheory/Function/SimpleFunc.lean:1144]: Maybe `const` would be a better name here

Comment (Parcly-Taxel) [reply Mathlib/MeasureTheory/Function/SimpleFunc.lean:1144]: OK. I have implemented all your proposed changes.

File: Mathlib/Algebra/DirectSum/Decomposition.lean [hunk 5]
```diff
@@ -97,8 +97,8 @@ omit [AddSubmonoidClass σ M] in
 def SetLike.IsHomogeneous {P : Type*} [SetLike P M] (p : P) : Prop :=
   ∀ (i : ι) ⦃m : M⦄, m ∈ p → (DirectSum.decompose ℳ m i : M) ∈ p
 
-protected theorem Decomposition.inductionOn {p : M → Prop} (h_zero : p 0)
-    (h_homogeneous : ∀ {i} (m : ℳ i), p (m : M)) (h_add : ∀ m m' : M, p m → p m' → p (m + m')) :
+protected theorem Decomposition.inductionOn {p : M → Prop} (zero : p 0)
```
Comment (eric-wieser) [inline Mathlib/Algebra/DirectSum/Decomposition.lean:100]:
```suggestion
protected theorem Decomposition.inductionOn {motive : M → Prop} (zero : p 0)
```
and for the other ones in this PR

File: Mathlib/MeasureTheory/Function/SimpleFuncDenseLp.lean [hunk 6]
```diff
@@ -616,10 +616,10 @@ that the property holds for (multiples of) characteristic functions of finite-me
 sets and is closed under addition (of functions with disjoint support). -/
 @[elab_as_elim]
 protected theorem induction (hp_pos : p ≠ 0) (hp_ne_top : p ≠ ∞) {P : Lp.simpleFunc E p μ → Prop}
-    (h_ind :
+    (ind :
```
Comment (eric-wieser) [inline Mathlib/MeasureTheory/Function/SimpleFuncDenseLp.lean:619]:
```suggestion
    (indicatorConst :
```

File: Mathlib/MeasureTheory/Function/SimpleFuncDenseLp.lean [hunk 7]
```diff
@@ -815,16 +815,16 @@ suffices to show that
...
 theorem Lp.induction [_i : Fact (1 ≤ p)] (hp_ne_top : p ≠ ∞) (P : Lp E p μ → Prop)
-    (h_ind : ∀ (c : E) {s : Set α} (hs : MeasurableSet s) (hμs : μ s < ∞),
+    (ind : ∀ (c : E) {s : Set α} (hs : MeasurableSet s) (hμs : μ s < ∞),
       P (Lp.simpleFunc.indicatorConst p hs hμs.ne c))
-    (h_add : ∀ ⦃f g⦄, ∀ hf : MemLp f p μ, ∀ hg : MemLp g p μ, Disjoint (support f) (support g) →
+    (add : ∀ ⦃f g⦄, ∀ hf : MemLp f p μ, ∀ hg : MemLp g p μ, Disjoint (support f) (support g) →
       P (hf.toLp f) → P (hg.toLp g) → P (hf.toLp f + hg.toLp g))
-    (h_closed : IsClosed { f : Lp E p μ | P f }) : ∀ f : Lp E p μ, P f := by
-  refine fun f => (Lp.simpleFunc.denseRange hp_ne_top).induction_on f h_closed ?_
+    (closed : IsClosed { f : Lp E p μ | P f }) : ∀ f : Lp E p μ, P f := by
```
Comment (eric-wieser) [inline Mathlib/MeasureTheory/Function/SimpleFuncDenseLp.lean:822]:
```suggestion
    (isClosed : IsClosed { f : Lp E p μ | P f }) : ∀ f : Lp E p μ, P f := by
```
since we're renaming this anyway

File: Mathlib/MeasureTheory/Function/SimpleFuncDenseLp.lean [hunk 8]
```diff
@@ -815,16 +815,16 @@ suffices to show that
 -/
 @[elab_as_elim]
 theorem Lp.induction [_i : Fact (1 ≤ p)] (hp_ne_top : p ≠ ∞) (P : Lp E p μ → Prop)
-    (h_ind : ∀ (c : E) {s : Set α} (hs : MeasurableSet s) (hμs : μ s < ∞),
+    (ind : ∀ (c : E) {s : Set α} (hs : MeasurableSet s) (hμs : μ s < ∞),
```
Comment (eric-wieser) [inline Mathlib/MeasureTheory/Function/SimpleFuncDenseLp.lean:818]:
```suggestion
    (indicatorConst : ∀ (c : E) {s : Set α} (hs : MeasurableSet s) (hμs : μ s < ∞),
```

**Review by eric-wieser — APPROVED** [review]
Thanks, this is great! Just a few more tweaks.

File: Mathlib/MeasureTheory/Function/SimpleFuncDenseLp.lean [hunk 9]
```diff
@@ -839,32 +840,32 @@ a simple function with a multiple of a characteristic function and that the inte
...
-theorem MemLp.induction [_i : Fact (1 ≤ p)] (hp_ne_top : p ≠ ∞) (P : (α → E) → Prop)
-    (h_ind : ∀ (c : E) ⦃s⦄, MeasurableSet s → μ s < ∞ → P (s.indicator fun _ => c))
-    (h_add : ∀ ⦃f g : α → E⦄, Disjoint (support f) (support g) → MemLp f p μ → MemLp g p μ →
-      P f → P g → P (f + g))
-    (h_closed : IsClosed { f : Lp E p μ | P f })
-    (h_ae : ∀ ⦃f g⦄, f =ᵐ[μ] g → MemLp f p μ → P f → P g) :
-    ∀ ⦃f : α → E⦄, MemLp f p μ → P f := by
-  have : ∀ f : SimpleFunc α E, MemLp f p μ → P f := by
+theorem MemLp.induction [_i : Fact (1 ≤ p)] (hp_ne_top : p ≠ ∞) (motive : (α → E) → Prop)
+    (ind : ∀ (c : E) ⦃s⦄, MeasurableSet s → μ s < ∞ → motive (s.indicator fun _ => c))
```
Comment (eric-wieser) [inline Mathlib/MeasureTheory/Function/SimpleFuncDenseLp.lean:844]:
```suggestion
    (indicator : ∀ (c : E) ⦃s⦄, MeasurableSet s → μ s < ∞ → motive (s.indicator fun _ => c))
```
here too

File: Mathlib/Algebra/DirectSum/Decomposition.lean [hunk 10]
```diff
@@ -97,9 +97,9 @@ omit [AddSubmonoidClass σ M] in
 def SetLike.IsHomogeneous {P : Type*} [SetLike P M] (p : P) : Prop :=
   ∀ (i : ι) ⦃m : M⦄, m ∈ p → (DirectSum.decompose ℳ m i : M) ∈ p
 
-protected theorem Decomposition.inductionOn {p : M → Prop} (h_zero : p 0)
-    (h_homogeneous : ∀ {i} (m : ℳ i), p (m : M)) (h_add : ∀ m m' : M, p m → p m' → p (m + m')) :
-    ∀ m, p m := by
+protected theorem Decomposition.inductionOn {motive : M → Prop} (zero : motive 0)
```
Comment (eric-wieser) [inline Mathlib/Algebra/DirectSum/Decomposition.lean:100]:
```suggestion
@[elab_as_elim]
protected theorem Decomposition.inductionOn {motive : M → Prop} (zero : motive 0)
```

File: Mathlib/GroupTheory/CoprodI.lean [hunk 11]
```diff
@@ -569,25 +570,25 @@ theorem equivPair_tail_eq_inv_smul {G : ι → Type*} [∀ i, Group (G i)]
     (equivPair i w).tail = (of (equivPair i w).head)⁻¹ • w :=
   Eq.symm <| inv_smul_eq_iff.2 (equivPair_head_smul_equivPair_tail w).symm
 
-theorem smul_induction {C : Word M → Prop} (h_empty : C empty)
-    (h_smul : ∀ (i) (m : M i) (w), C w → C (of m • w)) (w : Word M) : C w := by
+theorem smul_induction {motive : Word M → Prop} (empty : motive empty)
```
Comment (eric-wieser) [inline Mathlib/GroupTheory/CoprodI.lean:573]:
```suggestion
@[elab_as_elim]
theorem smul_induction {motive : Word M → Prop} (empty : motive empty)
```

**Comment by eric-wieser** [comment]
bors merge

Thanks!

>  Induction principles to rename were found using the regex `^\s+\| @?[Hh]_.`

I think there's probably a second batch with no `_` to go through as well, but that's for another PR.
